US08349893B2
To a solution of 9-decenoic acid ethyl ester (Tetrahedron 2003, 59, 7973; 500 mg, 2.53 mmol) and 2-fluorostyrene (617 mg, 5.05 mmol) in dichloromethane (12.5 mL) was added dichloro(1,3-dimesityl-4,5-dihydroimidazol-2-ylidene)(phenylmethylene)(tri-cyclohexylphosphine)ruthenium (107 mg, 0.13 mmol). The mixture was flushed with nitrogen and sealed in a pressure tube, then heated at 40° C. for 18 h. After cooling and evaporation of the solvent, the product was purified by chromatography (SiO2, heptane-dichloromethane 3:1) to afford 10-(2-fluoro-phenyl)-dec-9-enoic acid ethyl ester (420 mg, 57%).

reactant | 9-decenoic acid ethyl ester | 2.53 mmol, 500 mg | C(C)OC(CCCCCCCC=C)=O | C12H22O2
reactant | 2-fluorostyrene | 5.05 mmol, 617 mg | FC1=C(C=C)C=CC=C1 | C8H7F
solvent | dichloromethane | 12.5 mL | ClCCl | CH2Cl2
product | 10-(2-fluoro-phenyl)-dec-9-enoic acid ethyl ester | 420 mg, 57% | C(C)OC(CCCCCCCC=CC1=C(C=CC=C1)F)=O | C18H25FO2
